US04071627
A solution of 6.8 g of sodium hydroxide, 125 ml of methanol, and 125 ml of toluene was charged to a flask and stirred vigorously while adding 33 g. of 2-(acetylthio)-N-butyl-N(1-nitro-2-propyl) acetamide over a 5-minute period of 30°-40° C. The reaction mixture was stirred at 40° C for 5 hours; then stirred overnight at room temperature. The mixture was stripped of solvents under reduced pressure. The solid residue was dissolved in 500 ml of cold water and the mixture was filtered and the filtrate was acidified with conc. hydrochloric acid. The resulting mixture was extracted three times with methylene chloride and the methylene chloride layer was dried with MgSO4. The methylene chloride was stripped from product under reduced pressure. The oily residue crystallized over night. This crude reaction product was recrystallized from 60/40 xylene-hexane mixture to yield 12 g of 2-oximino-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one, m.p. 118°-120° C. An nmr spectrum supported the proposed structure.

reactant | sodium hydroxide | 6.8 g | [OH-].[Na+]
reactant | methanol | 125 ml | CO | CH4O
reactant | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(acetylthio)-N-butyl-N(1-nitro-2-propyl) acetamide | C(C)(=O)SCC(=O)N(C(C[N+](=O)[O-])C)CCCC | C11H20N2O4S
solvent | water | 500 ml | O | H2O
product | 2-oximino-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one | 12 g | N(O)=C1SCC(N(C1C)CCCC)=O | C9H16N2O2S
